US07776897B2
tert-Butyl {2-[(2-chlorobenzoyl)amino]ethyl}carbamate was dissolved in dioxane and a 4M hydrogen chloride dioxane solution was added thereto. The whole was stirred at room temperature to obtain N-(2-aminoethyl)-2-chlorobenzamide hydrochloride.

reactant | tert-Butyl {2-[(2-chlorobenzoyl)amino]ethyl}carbamate | ClC1=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC=C1 | C14H19ClN2O3
reactant | hydrogen chloride dioxane | 4M | O1CCOCC1.Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(2-aminoethyl)-2-chlorobenzamide hydrochloride | Cl.NCCNC(C1=C(C=CC=C1)Cl)=O | InChI=1S/C9H11ClN2O.ClH/c10-8-4-2-1-3-7(8)9(13)12-6-5-11;/h1-4H,5-6,11H2,(H,12,13);1H
